US08202872B2
3-(2-chloroethoxy)-1-(3,4-dichlorophenyl)-5-methyl-1H-pyrazole (0.2 g, 0.65 mmol), 3-(piperidin-4-yl)-3H-imidazo[4,5-b]pyridine (0.145 g, 0.72 mmol), K2CO3 (270 mg, 1.96 mmol) and NaI (98 mg, 0.65 mmol) in dry dimethylformamide (6 ml) was warmed overnight at 85° C., and then an additionally 16 hrs at 95° C., in a dry nitrogen atmosphere. Solvents were evaporated in vacuo and the crude residue partitioned in water/ethyl acetate. The combined organic extracts were washed with water, dried on Na2SO4 and concentrated in vacuo to obtain a yellow crude oil, which was purified by column chromatography on silica gel (eluent: ethyl acetate 100% and ethyl acetate/MeOH 98/2 and 95/5) yielding 134 mg of 3-{1-[2-(1-(3,4-Dichlorophenyl)-5-methyl-1H-pyrazol-3-yloxy)ethyl]piperidin-4-yl}-3H-imidazo[4,5-b]pyridine as a white solid with m.p.=104-107° C.

reactant | 3-(2-chloroethoxy)-1-(3,4-dichlorophenyl)-5-methyl-1H-pyrazole | 0.65 mmol, 0.2 g | ClCCOC1=NN(C(=C1)C)C1=CC(=C(C=C1)Cl)Cl | C12H11Cl3N2O
reactant | 3-(piperidin-4-yl)-3H-imidazo[4,5-b]pyridine | 0.72 mmol, 0.145 g | N1CCC(CC1)N1C=NC=2C1=NC=CC2 | C11H14N4
reactant | K2CO3 | 1.96 mmol, 270 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 0.65 mmol, 98 mg | [Na+].[I-]
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 3-{1-[2-(1-(3,4-Dichlorophenyl)-5-methyl-1H-pyrazol-3-yloxy)ethyl]piperidin-4-yl}-3H-imidazo[4,5-b]pyridine | 134 mg | ClC=1C=C(C=CC1Cl)N1N=C(C=C1C)OCCN1CCC(CC1)N1C=NC=2C1=NC=CC2 | C23H24Cl2N6O
